US06696471B2
To 1.3 g (7.5 mmol) of 3-methoxybenzoyl acetonitrile in 30 mL of THF, cooled in a wet ice bath, was added 0.3 g (7.5 mmol) of sodium hydride (60% oil dispersion). After 1 h, added 1.0 g (3.6 mmol) of 3-bromoacetylpyridine hydrobromide. After 3 h, poured the reaction mixture into brine, extracted with ethyl acetate, dried over sodium sulfate, concentrated under reduced pressure and purified by flash chromatography (gradient elution: 40-100% ethyl acetate/hexane) to give 0.95 g (43%) of 2-(3-methoxybenzoyl)-4-oxo-4-pyridin-3-yl-butyronitrile (MH+=295).

reactant | 3-methoxybenzoyl acetonitrile | 7.5 mmol, 1.3 g | COC=1C=C(C(=O)CC#N)C=CC1 | C10H9NO2
reactant | sodium hydride | 7.5 mmol, 0.3 g | [H-].[Na+]
reactant | 3-bromoacetylpyridine hydrobromide | 3.6 mmol, 1.0 g | Br.BrCC(=O)C=1C=NC=CC1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 2-(3-methoxybenzoyl)-4-oxo-4-pyridin-3-yl-butyronitrile | 0.95 g, 43% | COC=1C=C(C(=O)C(C#N)CC(C=2C=NC=CC2)=O)C=CC1 | C17H14N2O3
